US08071586B2
A) 2-(3-Benzyloxy-propylamino)-ethanol
Sodium iodide (1.67 g, 11.1 mmol) was added to a solution of benzyl 3-bromopropyl ether (26.0 g, 111 mmol) and ethanolamine (35.0 g, 556 mmol) in ethanol (250 ml). The reaction mixture was heated at reflux for 1 h, then cooled to room temperature and evaporated under vacuum. The residue was partitioned between sat. aq. ammonium chloride solution and ethyl acetate. The aqueous layer was basified with 40% aq. sodium hydroxide solution and extracted three times with ethyl acetate. The organic phases were pooled, dried (MgSO4), filtered, and evaporated to afford the title compound (20.9 g, 90%). Light yellow liquid, MS (ISP)=210.2 (M+H)+.

reactant | Sodium iodide | 11.1 mmol, 1.67 g | [I-].[Na+]
reactant | benzyl 3-bromopropyl ether | 111 mmol, 26.0 g | BrCCCOCC1=CC=CC=C1 | C10H13BrO
reactant | ethanolamine | 556 mmol, 35.0 g | C(O)CN | C2H7NO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 2-(3-Benzyloxy-propylamino)-ethanol | 20.9 g, 90% | C(C1=CC=CC=C1)OCCCNCCO | C12H19NO2
